US07507740B2
Production of ethyl 3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate
A mixture of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (2.78 g), ethyl 3-aminobenzoate (4.49 g) and 1-methyl-2-pyrrolidone (20 mL) was stirred at 120° C. for 1.5 hrs. To the reaction mixture were added ethyl acetate, water and saturated aqueous sodium hydrogen carbonate solution. The insoluble material was filtered off, and the ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate, and the mixed ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The filtered insoluble material was suspended in methanol and ethyl acetate and saturated brine were added. The ethyl acetate layer was separated. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The mixed ethyl acetate layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent, ethyl acetate) and crystallized from methanol-acetone-diisopropyl ether to give the title compound (2.85 g) as a pale-brown powder.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 2.78 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | ethyl 3-aminobenzoate | 4.49 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | 1-methyl-2-pyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(5H-pyrrolo[3,2-d]pyrimidin-4-ylamino)benzoate | 2.85 g | N1=CN=C(C2=C1C=CN2)NC=2C=C(C(=O)OCC)C=CC2 | C15H14N4O2
